US07230007B2
0.43 g (19 mmol) of sodium was added portionwise, at a temperature in the region of 20° C. under an argon atmosphere, to 30 cm3 of methanol and then, after the sodium has been completely consumed, 1.9 g (20 mmol) of guanidine hydrochloride were added. The reaction mixture was stirred at a temperature in the region of 20° C. for 2 h, then it was concentrated to dryness under reduced pressure (2.7 kPa) and the residue was 2 times in succession taken up in 10 cm3 of dichloromethane (stabilized over amylene) and the supernatant separated. The residue was subsequently concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained was taken up in 40 cm3 of a 1:1 mixture of dichloromethane (stabilized over amylene) and tetrahydrofuran under an argon atmosphere at a temperature in the region of 20° C. and 1.1 g (3.4 mmol) of 3-chlorocarbonyl-1-(2-methylquinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride, in suspension in 20 cm3 of a 1:1 mixture of dichloromethane (stabilized over amylene) and tetrahydrofuran, were added with stirring. After stirring at a temperature in the region of 20° C. for 65 h, the reaction mixture was concentrated to dryness under reduced pressure (2.7 kPa). The residue was taken up in 30 cm3 of ethanol and the mixture was heated at reflux for 5 minutes and then reconcentrated to dryness under reduced pressure (2.7 kPa). The residue was taken up in 50 cm3 of water and extracted successively with 50 cm3 and then 25 cm3 of ethyl acetate. The organic extracts were combined, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa). The residue was purified by flash chromatography on a column of silica gel (0.06–0.20 mm), elution being carried out with a dichloromethane/methanol (95/5 by volume) mixture. The fractions comprising the expected product were combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue was triturated in 10 cm3 of diisopropyl ether, filtered off, washed twice with 5 cm3 of diisopropyl ether and dried under reduced pressure (2.7 kPa) at a temperature in the region of 50° C. 0.17 g of N-[1-(2-methylquinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl]guanidine hydrochloride was thus obtained in the form of a yellow crystalline solid melting at 178° C. (Analysis C19H16N6O.HCl % calculated C, 59.92; H, 4.50; N, 22.07; O, 4.20%. found C, 60.40; H, 4.50; N, 21.47).

reactant | sodium | 19 mmol, 0.43 g | [Na] | Na
reactant | methanol | 30 cm3 | CO | CH4O
reactant | guanidine hydrochloride | 20 mmol, 1.9 g | Cl.NC(=N)N
reactant | 3-chlorocarbonyl-1-(2-methylquinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | 3.4 mmol, 1.1 g | Cl.ClC(=O)C1=CN(C2=NC=CC=C21)C2=CC(=NC1=CC=CC=C21)C
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[1-(2-methylquinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl]guanidine hydrochloride | 0.17 g | Cl.CC1=NC2=CC=CC=C2C(=C1)N1C=C(C=2C1=NC=CC2)C(=O)NC(=N)N | InChI=1S/C19H16N6O.ClH/c1-11-9-16(13-5-2-3-7-15(13)23-11)25-10-14(18(26)24-19(20)21)12-6-4-8-22-17(12)25;/h2-10H,1H3,(H4,20,21,24,26);1H
